US06306860B1
5-[N-[Bis(hydroxymethyl)methyl]carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine
By the same procedure as described in the example 2, synthesis was carried out starting with 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester and using 2-amino-1,3-propandiol. Then, the product was recrystallized with ethyl acetate and hexane to give a desired compound.

reactant | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C20H25N5O3
reactant | 2-amino-1,3-propandiol | NC(CO)CO | C3H9NO2
product | 5-[N-[Bis(hydroxymethyl)methyl]carbamoyl]-2-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine | Yield: 78% | OCC(NC(=O)C=1C=CC(=NC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)CO | C22H30N6O4
